US06228810B1
3. Preparation of methyl methoxyimino-[2-(2-ethoxyimino-1-methylpropylideneaminooxy)pyridin-3-yl]acrylate
A mixture of 650 mg (1.9 mmol) of methoxymethyltriphenyl-phosphonium chloride and 340 g (1.9 mmol) of sodium methoxide solution (30% strength in methanol) in 8 ml of dimethylformamide was stirred for 10 minutes at room temperature. The reaction mixture was subsequently treated with 400 mg (0.95 mmol) of methyl [2-(2-ethoxyimino-1-methylpropylideneaminooxy)pyridin-3-yl]glyoxylate, dissolved in 4 ml of dimethylformamide. The reaction mixture was stirred for 4 hours at room temperature, hydrolyzed with 20 ml of water, and the aqueous phase was extracted with ethyl acetate. The combined organic phases were dried over sodium sulfate and the solvent was removed under reduced pressure. This gave 120 mg (38%) of the title compound as a yellow oil.

reactant | methoxymethyltriphenyl-phosphonium chloride | 1.9 mmol, 650 mg | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium methoxide | 1.9 mmol, 340 g | C[O-].[Na+]
reactant | methyl [2-(2-ethoxyimino-1-methylpropylideneaminooxy)pyridin-3-yl]glyoxylate | 0.95 mmol, 400 mg | C(C)ON=C(C(C)=NOC1=NC=CC=C1C(C(=O)OC)=O)C | C14H17N3O5
reactant | water | 20 ml | O | H2O
reactant | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | methyl methoxyimino-[2-(2-ethoxyimino-1-methylpropylideneaminooxy)pyridin-3-yl]acrylate | CON=C=C(C(=O)OC)C=1C(=NC=CC1)ON=C(C(C)=NOCC)C | C16H20N4O5
